data/mechanisms/records/IMS9-EQ9.30c.json
{"mechanism_id": "IMS9-EQ9.30c", "species": [{"species_id": "tmch_molecular_ion", "mapped_smiles": "[O+:7]=[C:1]1[CH2:2][C:3]([CH3:8])([CH3:9])[CH2:4][CH:5]([CH3:10])[CH:6]1[1H:11]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "ring_opened_acylium_c1c2", "mapped_smiles": "[O+:7]#[C:1][CH:6]([1H:11])[CH:5]([CH3:10])[CH2:4][C:3]([CH3:8])([CH3:9])[CH2:2]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "rearranged_acylium_radical", "mapped_smiles": "[O+:7]#[C:1][CH:6][CH:5]([CH3:10])[CH2:4][C:3]([CH3:8])([CH3:9])[CH2:2][1H:11]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "butenoyl_cation_mz69", "mapped_smiles": "[O+:7]#[C:1][CH:6]=[CH:5][CH3:10]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "neopentyl_radical", "mapped_smiles": "[CH2:4][C:3]([CH3:8])([CH3:9])[CH2:2][1H:11]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["tmch_molecular_ion"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_acylium_c1c2"]}, {"state_id": "state_rearranged", "species_ids": ["rearranged_acylium_radical"]}, {"state_id": "state_mz69", "species_ids": ["butenoyl_cation_mz69", "neopentyl_radical"]}], "steps": [{"step_id": "step_alpha_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rH_c6_to_c2", "from_state": "state_ring_opened", "to_state": "state_rearranged", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [6, 11]}, "target": {"type": "bond", "atom_maps": [2, 11]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 11]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_neopentyl_loss", "from_state": "state_rearranged", "to_state": "state_mz69", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 251, "equation": "9.30", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones, 'Alicyclic ketones' (lower arrow labelled alpha)"}, "confidence": 0.75, "curator_note": "Substrate named by the prose ON THIS PAGE: 'Alicyclic ketones. The mass spectrum of 3,3,5-trimethylcyclohexanone (Figure 8.5) illustrates major additional fragmentation pathways found for cyclic ketones (Equation 9.30); these are similar to those discussed for cyclic alcohols and in Section 8.9.' Drawn as a cyclohexanone with '+.' over the oxygen, gem-dimethyl at the lower-left ring carbon and a single methyl at the lower-right one, labelled 'm/z 140'. ATOM MAPS use the ring numbering of that name: 1 = the carbonyl carbon, 2 and 6 = the two alpha CH2 groups, 3 = the gem-dimethyl quaternary carbon, 4 = the remaining ring CH2, 5 = the CH bearing the single methyl, 7 = O, 8/9 = the two 3,3-methyls, 10 = the 5-methyl, 11 = the hydrogen the page draws EXPLICITLY inside the lower ring-opened product, on C6. THIS IS THE OTHER alpha CHANNEL: the lower arrow cleaves C1-C2, not C1-C6, so the acylium ends up attached to C6 and the primary radical sits on C2 -- the page prints the dot on the upper-LEFT ring carbon here, mirroring the upper branch. The two channels are the two symmetry-distinct alpha bonds of the ring, and the 'alpha' MØD rule finds exactly these two (see the mechanism-level note). *** BOND ORDER MEASURED, NOT EYEBALLED: every C-O bond drawn in equation 9.30 is a TRIPLE bond. *** A dark-run pixel profile across the three C-O bonds on the native 1760x2560 scan returns three parallel strokes in each case (upper alpha product at native x 587/598/608, lower at 591/601/611, m/z 83 ion at 1402/1412/1422). At page-render resolution the upper one reads as a double bond, which would make its carbon a sextet; it is not. The ring-opened species are therefore true acylium ions R-C#O+, encoded '[O+:7]#[C:1]' as in IMS9-EQ9.27a. The alpha arrow: the molecular ion carries ZERO arcs (only '+.' over the oxygen), so all three moves are curator-supplied -- the canonical radical-site triple: <1> the oxygen odd electron into the C1-O bond, raising C=O to the C#O+ of the acylium, <2> one electron of the breaking ring bond into that same bond, <3> the second electron staying on the departing ring carbon as the new radical site. The ring does not fall apart: the 'fragments' stay tied together through the rest of the ring, so this step is a RING OPENING to a distonic ion of unchanged mass (140.1196), which is why the page draws the product with the same hexagonal layout minus one bond."}, {"evidence_id": "evidence_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_c6_to_c2", "support_type": "textbook_proposed", "locator": {"page": 251, "equation": "9.30", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones, 'Alicyclic ketones' (lower arrow labelled 'rH')"}, "confidence": 0.7, "curator_note": "The lower 'rH' arrow. Book draws 2 arcs, both SOLID here (this branch carries no competing channel, so nothing is dashed): one from the radical dot on C2 and one from the C6-H bond, their heads CONVERGING on the gap between C2 and the explicitly drawn H -- measured at 5x, the convergence point sits at the midpoint of the forming C2-H bond. Moves <1,2> are those arcs; move <3>, not drawn, leaves the second C6-H electron on C6 as the new radical site, which the page then prints on the next structure. After the transfer C2 is a methyl on the gem-dimethyl carbon -- the page redraws that end as a tert-butyl group, which is the check that the H landed where this record puts it."}, {"evidence_id": "evidence_step_alpha_69", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_neopentyl_loss", "support_type": "textbook_proposed", "locator": {"page": 251, "equation": "9.30", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones, 'Alicyclic ketones' (lower arrow labelled alpha, to m/z 69)"}, "confidence": 0.75, "curator_note": "The final 'alpha' arrow. Book draws 2 arcs on the rearranged ion: one from the radical dot on C6 into the C5-C6 bond, one from the C4-C5 bond into the same bond; move <3> (the second C4-C5 electron staying on C4) is not drawn but is what produces the printed neutral radical. PRODUCTS AS DRAWN: the ion is the conjugated acylium O+#C-CH=CH-CH3 labelled 'm/z 69' (C4H5O+, 69.0335 -- note this is the OXYGEN-containing 69, not the C5H9+ hydrocarbon at 69.0699 that the same nominal mass could mean), and the neutral is drawn as a four-line vertex with a dot on one branch, i.e. the NEOPENTYL radical .CH2-C(CH3)3 (C5H11., 71.0861). The two sum to 140.1196. MEASUREMENTS (convention F): the page LABELS m/z 140, 112, 56, 83 and 69 on the scheme itself, and every one of them matches the exact mass computed from the structure encoded here (140.1196, 112.1247, 56.0621, 83.0491, 69.0335 -- RDKit ExactMolWt, which already applies the formal charge). Peak assignments store those computed exact masses with status 'proposed', the corpus convention for a book-labelled m/z (IMS9-EQ9.22, IMS9-EQ9.19a). NO relative_intensity: the scheme prints no percentage, and Figure 8.5 -- the actual 3,3,5-trimethylcyclohexanone spectrum, which does carry abundances -- is in chapter 8, not on this page."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 140.1196, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_140", "species_id": "tmch_molecular_ion", "step_id": null, "observed_mz": 140.1196, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}, {"peak_id": "peak_69", "species_id": "butenoyl_cation_mz69", "step_id": "step_alpha_neopentyl_loss", "observed_mz": 69.0335, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-10T00:00:00Z", "modified_at": "2026-08-10T00:00:00Z"}}
